US08039493B2
In analogy to example 10, step 3, 2-chloro-N-isobutyl-benzenesulfonamide was reacted with 4-bromo-2-fluorobenzyl bromide, cesium carbonate and 10 mol-% tetrabutylammonium iodide as a catalyst in N,N-dimethylacetamide to give N-(4-bromo-2-fluoro-benzyl)-2-chloro-N-isobutyl-benzenesulfonamide as a colorless oil. MS: 434.2 ([M+H]+)

reactant | 2-chloro-N-isobutyl-benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NCC(C)C | C10H14ClNO2S
reactant | 4-bromo-2-fluorobenzyl bromide | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N-(4-bromo-2-fluoro-benzyl)-2-chloro-N-isobutyl-benzenesulfonamide | BrC1=CC(=C(CN(S(=O)(=O)C2=C(C=CC=C2)Cl)CC(C)C)C=C1)F | C17H18BrClFNO2S
